US05212179
2-Bromomethylnaphthalene is heated with 4-benzoylureidopyridine in acetonitrile solvent to give 1-benzoyl3-[1-(naphth-2-ylmethyl)-4-pyridinium urea bromide m.p.247°-8° C. This compound is reduced by refluxing with sodium borohydride in isopropyl alcohol solvent to give the title compound, m.p. of HCl hemihydrate salt=232°-234° C.

reactant | 2-Bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | 4-benzoylureidopyridine | C(C1=CC=CC=C1)(=O)NC(NC1=CC=NC=C1)=O | C13H11N3O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(naphth-2-ylmethyl)-4-pyridinium urea bromide | [Br-].NC(=O)N.C1=C(C=CC2=CC=CC=C12)CN1CC=[CH2+]C=C1 | InChI=1S/C16H16N.CH4N2O.BrH/c1-4-10-17(11-5-1)13-14-8-9-15-6-2-3-7-16(15)12-14;2-1(3)4;/h2-10,12H,1,11,13H2;(H4,2,3,4);1H/q+1;;/p-1
